US07122546B2
Step 5. Preparation of (6-chloro-4-methoxy-pyridazin-3-yl)-methanol 7
DIBAL (1N solution in THF, 4 mL) is added to a stirred solution of 6-chloro-4-methoxy-pyridazine-3-carboxylic acid methyl ester (182 mg, 0.9 mmol) in CH2Cl2 (10 mL) cooled to 0° C. The solution is stirred at 0° C. for 3 hours. Excess (Na2SO4).10H2O is then added and the mixture is stirred at room temperature for 45 minutes. The solid is washed with EtOAc, filtered, and the filtrate evaporated in vacuo. The resulting alcohol is used without further purification in the next step.

reactant | DIBAL | 1N, 4 mL | CC(C)C[AlH]CC(C)C
reactant | 6-chloro-4-methoxy-pyridazine-3-carboxylic acid methyl ester | 0.9 mmol, 182 mg | COC(=O)C=1N=NC(=CC1OC)Cl | C7H7ClN2O3
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (6-chloro-4-methoxy-pyridazin-3-yl)-methanol | ClC1=CC(=C(N=N1)CO)OC | C6H7ClN2O2
